US07456167B2
Methyl 3-cyclohexyl-1H-indole-6-carboxylate.
Thionyl chloride (1 mL) was added to a stirred mixture of 3-cyclohexyl-1H-indole-6-carboxylic acid (30.4 g, 0.125 mol) in methanol (300 mL). The mixture was stirred at reflux for 18 hours, treated with decolorizing carbon, and filtered. The filtrate was concentrated to about 150 mL at which point crystallization occurred. The filtrate was cooled to room temperature and filtered. The solid washed with cold methanol followed by diethyl ether to provide the desired product as a pale purple solid (22.2 g, 69% yield). ESI-MS m/z 258 (MH+); 1H NMR (300 MHz, CDCl3.) δ 1.35 (m, 4H), 1.63 (s, 1H), 1.78 (m, 3H), 2.06 (d, J=8.05 Hz, 2H, 3.90 (m, 1H), 7.08 (d, J=1.83 Hz, 1H), 7.62 (s, 1H), 7.65 (s, 1H), 7.74 (d, J=1.46 Hz, 1H), 7.77 (d, J=1.46 Hz, 1H), 8.08 (s, 1H).

reactant | Thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-cyclohexyl-1H-indole-6-carboxylic acid | 0.125 mol, 30.4 g | C1(CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)O | C15H17NO2
reactant | methanol | 300 mL | CO | CH4O
product | Methyl 3-cyclohexyl-1H-indole-6-carboxylate | 22.2 g, 69% yield | C1(CCCCC1)C1=CNC2=CC(=CC=C12)C(=O)OC | C16H19NO2
